US04629739
N-[2-(Heptylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride
To 1 l. of methanol is added 10.0 g (0.0389 mole) of N-(2-aminoethyl)-4-[(methylsulfonyl)amino]benzamide. The suspension is refluxed for 1 hour, then cooled. To the suspension is added 4.66 g (0.0408 mole) heptaldehyde, the mixture is then stirred over ice for 30 minutes. To the chilled mixture is added 10.26 g (0.1632 mole) of sodium cyanoborohydride. The reaction is stirred at room temperature for 24 hours, conc. HCl is added to keep the pH at about 6.0. After about 24 hours the pH of of the reaction is adjusted to pH=1.0 and reduced to 1/3 volume. 100 ml of water is added and the solid is filtered. The resultant solid is suspended in 100 ml DMF, heated to 120° C. and filtered hot. The solution is cooled and the resultant solid is filtered and dried to yield the title compound.

reactant | N-(2-aminoethyl)-4-[(methylsulfonyl)amino]benzamide | 0.0389 mole, 10.0 g | NCCNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C10H15N3O3S
reactant | heptaldehyde | 0.0408 mole, 4.66 g | C(CCCCCC)=O | C7H14O
reactant | sodium cyanoborohydride | 0.1632 mole, 10.26 g | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
product | N-[2-(Heptylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.C(CCCCCC)NCCNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/C17H29N3O3S.ClH/c1-3-4-5-6-7-12-18-13-14-19-17(21)15-8-10-16(11-9-15)20-24(2,22)23;/h8-11,18,20H,3-7,12-14H2,1-2H3,(H,19,21);1H
